US05602277
EXAMPLE 22 3-Aminomethylbenzoic acid hydrate (4:1).
A mixture of methyl 3-aminomethylbenzoate hydrochloride (2.014 g, 0.0098 mol) in 1N sodium hydroxide (25 mL, 0.025 mol) was stirred at room temperature for 4 h. The mixture was neutralized with Dowex-H+ resin. The mixture was filtered and acetone (400 mL) was added to the filtrate. The white precipitate was collected by filtration and recrystallized from water-acetone to give 0.80 g of the title compound as a white powder, mp 278°-280° C.

reactant | methyl 3-aminomethylbenzoate hydrochloride | 0.0098 mol, 2.014 g | Cl.NCC=1C=C(C(=O)OC)C=CC1
reactant | sodium hydroxide | 0.025 mol, 1N, 25 mL | [OH-].[Na+]
product | 3-Aminomethylbenzoic acid hydrate | 0.80 g | O.NCC=1C=C(C(=O)O)C=CC1 | InChI=1S/C8H9NO2.H2O/c9-5-6-2-1-3-7(4-6)8(10)11;/h1-4H,5,9H2,(H,10,11);1H2
